### PR TITLE
[Merged by Bors] - feat(Pow/Real): add rpow_ofNat

### PR DESCRIPTION
**Pull request by b-mehta**
A special case of `rpow_natCast` to make it fire on numerals

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/SpecialFunctions/Pow/Real.lean [hunk 1]
```diff
@@ -56,6 +56,12 @@ theorem rpow_intCast (x : ℝ) (n : ℤ) : x ^ (n : ℝ) = x ^ n := by
 @[simp, norm_cast]
 theorem rpow_natCast (x : ℝ) (n : ℕ) : x ^ (n : ℝ) = x ^ n := by simpa using rpow_intCast x n
 
+-- See library note [no_index around OfNat.ofNat]
```
Comment (eric-wieser) [inline Mathlib/Analysis/SpecialFunctions/Pow/Real.lean]: This note no longer applies, on account of there not being a `no_index` in the source any more.

**Review by eric-wieser — APPROVED** [review]
bors d+

Thanks!

File: Mathlib/Analysis/SpecialFunctions/Pow/Real.lean (hunk 1 above)
Comment (b-mehta) [inline Mathlib/Analysis/SpecialFunctions/Pow/Real.lean]:
```suggestion
```

Comment (b-mehta) [reply Mathlib/Analysis/SpecialFunctions/Pow/Real.lean]: Thanks - I made this change 6 months ago but apparently never created the PR until now, so this is a helpful catch!

File: Mathlib/Analysis/SpecialFunctions/Pow/Real.lean [hunk 2]
```diff
@@ -56,6 +56,11 @@ theorem rpow_intCast (x : ℝ) (n : ℤ) : x ^ (n : ℝ) = x ^ n := by
 @[simp, norm_cast]
 theorem rpow_natCast (x : ℝ) (n : ℕ) : x ^ (n : ℝ) = x ^ n := by simpa using rpow_intCast x n
 
+@[simp]
+lemma rpow_ofNat (x : ℝ) (n : ℕ) [n.AtLeastTwo] :
+    x ^ (ofNat(n) : ℝ) = x ^ (ofNat(n) : ℕ) :=
```
Comment (eric-wieser) [inline Mathlib/Analysis/SpecialFunctions/Pow/Real.lean:65]: Do you think it's worth having `x ^ (-ofNat(n) : ℝ) = x ^ (-ofNat(n) : \Z)` as well, as a `simp` lemma?

Comment (eric-wieser) [reply Mathlib/Analysis/SpecialFunctions/Pow/Real.lean:65]: (and the `natCast` version)

Comment (b-mehta) [reply Mathlib/Analysis/SpecialFunctions/Pow/Real.lean:65]: Sure, why not

Comment (b-mehta) [reply Mathlib/Analysis/SpecialFunctions/Pow/Real.lean:65]: added

**Comment by b-mehta** [comment]
The error is from https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/Failing.20CI/with/525558483

**Review by b-mehta — COMMENTED** [review]
bors r+
